* C:\users\nils\Desktop\Projects\Elektronik\LED Strip\LED-Strip.asc
V1 N001 0 20
D4 N012 N017 LED_Blau
D1 N017 N022 LED_Blau
D2 N002 N007 LED_Blau
D3 N007 N012 LED_Blau
D5 N022 0 LED_Blau
R1 N001 N002 {Rvor}
D6 N013 N018 LED_Blau
D7 N018 N023 LED_Blau
D8 N003 N008 LED_Blau
D9 N008 N013 LED_Blau
D10 N023 0 LED_Blau
R2 N001 N003 {Rvor}
D11 N014 N019 LED_Blau
D12 N019 N024 LED_Blau
D13 N004 N009 LED_Blau
D14 N009 N014 LED_Blau
D15 N024 0 LED_Blau
R3 N001 N004 {Rvor}
D16 N015 N020 LED_Blau
D17 N020 N025 LED_Blau
D18 N005 N010 LED_Blau
D19 N010 N015 LED_Blau
D20 N025 0 LED_Blau
R4 N001 N005 {Rvor}
D21 N016 N021 LED_Blau
D22 N021 N026 LED_Blau
D23 N006 N011 LED_Blau
D24 N011 N016 LED_Blau
D25 N026 0 LED_Blau
R5 N001 N006 {Rvor}
.model D D
.lib Z:\home\nils\.wine\drive_c\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.include LED.mod
.tran 1
.param Rvor=200
.backanno
.end
